US08222297B2
1) Synthesis of 6-methyl-8-(4-nitrophenoxy)[1,3]dioxolo[4,5-g]quinoline
A mixture of known 8-chloro-6-methyl[1,3]dioxolo[4,5-g]quinoline (2.216 g, 10 mmol)56 and 4-nitrophenol (2.08 g, 15 mmole) was heated at 140-150° C. for 2 h. The resulting solution was dissolved in chloroform and washed with 10% aq. solution of NaOH and brine. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduce pressure. The resulting solid was collected by filtration, washed with ether and dried to 6-methyl-8-(4-nitrophenoxy)[1,3]dioxolo[4,5-g]quinoline, 2.94 g of (90.60%); mp 210-212° C.; 1H NMR (DMSO-d6) δ 2.52 (3H, s, Me), 6.21 (2H, s, CH2), 6.86 (1H, s, ArH), 7.30 (1H, s, ArH), 7.34-7.38 (3H, m, ArH), 8.29-8.33 (2H, m, ArH). Anal. Calcld. for (C17H12N2O5): C, 62.96; H, 3.73; N, 8.64. Found: C, 62.27; H, 3.84; N, 8.58.

reactant | 8-chloro-6-methyl[1,3]dioxolo[4,5-g]quinoline | 10 mmol, 2.216 g | ClC1=CC(=NC=2C=C3C(=CC12)OCO3)C | C11H8ClNO2
reactant | 4-nitrophenol | 15 mmole, 2.08 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-methyl-8-(4-nitrophenoxy)[1,3]dioxolo[4,5-g]quinoline | CC1=NC=2C=C3C(=CC2C(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])OCO3 | C17H12N2O5
